US05866611
A suspension of potassium peroxymonosulphate (120 g) in the form of OXONE (Trademark) in water (100 ml) was slowly added to a solution of 4-methylmercaptophenol (15 g) in methanol (50 ml). The reaction mixture was stirred for 2 hours. Water (500 ml) was added and the resulting mixture extracted with ethyl acetate (200 ml and 100 ml). The ethyl acetate extracts were combined, washed with water (800 ml), dried (MgSO4) and evaporated to give 4-methylsulphonylphenol (11.54 g) as a colourless oil which slowly crystallised on standing, NMR(CDCl3): 3.06(3H,s), 6.80(1H,s), 6.98(2H,d) and 7.79(2H,d); m/z 190 (M+NH4).

reactant | potassium peroxymonosulphate | 120 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | 4-methylmercaptophenol | 15 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | water | 100 ml | O | H2O
reactant | Water | 500 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-methylsulphonylphenol | 11.54 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
